US09162953B2
Preparation of 4-(1H-pyrazol-1-yl)aniline
Following General Procedure A (125° C., 24 hours), 1H-pyrazole (102 mg, 1.5 mmol) is coupled with 4-iodoaniline (220 mg, 1.0 mmol). The crude brown oil is purified by flash chromatography on silica gel (eluent: dichloromethane/hexanes=50/50) to provide 90 mg (57% isolated yield) of the desired product as an orange solid.

reactant | 1H-pyrazole | 1.5 mmol, 102 mg | N1N=CC=C1 | C3H4N2
reactant | 4-iodoaniline | 1.0 mmol, 220 mg | IC1=CC=C(N)C=C1 | C6H6IN
product | 4-(1H-pyrazol-1-yl)aniline | N1(N=CC=C1)C1=CC=C(N)C=C1 | C9H9N3
